US08445499B2
Step 3: 4-Methyl-6-[1′-(5-methylpyrazin-2-yl)-4,4′-bipiperidin-1-yl]pyrimidine-2-carbonitrile
The 1-(2-chloro-6-methylpyrimidin-4-yl)-1′-(5-methylpyrazin-2-yl)-4,4′-bipiperidine (700 mg, 1.8 mmol) was placed in a pressure tube and anhydrous toluene (4 mL) added. To the stirred solution was added: palladium(II) acetate (41 mg, 0.18 mmol), 1,5-bis(dipenylphosphino)pentane (159 mg, 0.36 mmol), N,N,N′,N′-tetramethylethylenediamine (0.11 mL, 0.724 mmol), and potassium cyanide (235 mg, 3.62 mmol). The vessel was degassed with N2, sealed and heated at 140° C. for 16 hours. The mixture was allowed to cool to r.t., diluted with ethyl acetate (50 mL), washed with brine (10 mL×1), dried over magnesium sulfate, filtered and concentrated in vac. The residue was purified by chromatography on silica gel with 20% acetone: hexanes to yield the title compound.

reactant | 1-(2-chloro-6-methylpyrimidin-4-yl)-1′-(5-methylpyrazin-2-yl)-4,4′-bipiperidine | 1.8 mmol, 700 mg | ClC1=NC(=CC(=N1)N1CCC(CC1)C1CCN(CC1)C1=NC=C(N=C1)C)C | C20H27ClN6
reactant | 1,5-bis(dipenylphosphino)pentane | 0.36 mmol, 159 mg | C1(=CC=CC=C1)P(CCCCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C29H30P2
reactant | N,N,N′,N′-tetramethylethylenediamine | 0.724 mmol, 0.11 mL | CN(CCN(C)C)C | C6H16N2
reactant | potassium cyanide | 3.62 mmol, 235 mg | [C-]#N.[K+]
catalyst | palladium(II) acetate | 0.18 mmol, 41 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
product | 4-Methyl-6-[1′-(5-methylpyrazin-2-yl)-4,4′-bipiperidin-1-yl]pyrimidine-2-carbonitrile | CC1=NC(=NC(=C1)N1CCC(CC1)C1CCN(CC1)C1=NC=C(N=C1)C)C#N | C21H27N7
